US05442064
1-(4-Amidinophenyl)-4-[N-[trans-4-[(morpholinocarbonyl)-me thoxycarbonyl]-cyclohexyl]-aminocarbonyl]-piperazine-hydrochloride
A solution of 300 mg of 1-[4-(N-benzyloxycarbonyl-amidino)-phenyl]-4-[N-[trans-4-[(morpholinocarbonyl)-methoxycarbonyl]-cyclohexyl]-aminocarbonyl]-piperazine in 20 ml dimethylformamide is hydrogenated for 2 hours in the presence of 0.3 g of a catalyst consisting of 10% palladium on activated charcoal under an excess hydrogen pressure of 5 bar. Ethereal hydrochloric acid is added and the mixture is filtered. The filtrate is evaporated down under reduced pressure and the residue remaining is triturated with ether/acetone, acetone and acetone/methylene chloride and suction filtered. Yield: 210 mg (83% of theory), Rf value: 0.27 (silica gel; methylene chloride/methanol/conc. ammonia=4:1:0.25)

reactant | 1-[4-(N-benzyloxycarbonyl-amidino)-phenyl]-4-[N-[trans-4-[(morpholinocarbonyl)-methoxycarbonyl]-cyclohexyl]-aminocarbonyl]-piperazine | 300 mg | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)N1CCN(CC1)C(=O)N[C@@H]1CC[C@H](CC1)C(=O)OCC(=O)N1CCOCC1 | C33H42N6O7
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | palladium on activated charcoal | [Pd] | Pd
product | 1-(4-Amidinophenyl)-4-[N-[trans-4-[(morpholinocarbonyl)-me thoxycarbonyl]-cyclohexyl]-aminocarbonyl]-piperazine-hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)N1CCN(CC1)C(=O)N[C@@H]1CC[C@H](CC1)C(=O)OCC(=O)N1CCOCC1 | InChI=1S/C25H36N6O5.ClH/c26-23(27)18-3-7-21(8-4-18)29-9-11-31(12-10-29)25(34)28-20-5-1-19(2-6-20)24(33)36-17-22(32)30-13-15-35-16-14-30;/h3-4,7-8,19-20H,1-2,5-6,9-17H2,(H3,26,27)(H,28,34);1H/t19-,20-;
